US07700599B2
6-[(4-Fluorophenyl)oxy]-3-pyridinecarboxylic acid (D14)
A mixture of 4-fluorophenol (96.8 g), methyl 6-chloropyridine-3-carboxylate (30 g) and cesium carbonate (285.3 g) in DMSO (875 mL) was stirred and heated to 130° C. over a period of 1.75 h then cooled overnight. The reaction mixture was reheated to ˜150° C. over a period of 1.5 h, kept at this temperature for ˜1 h, then cooled to ˜40° C. and poured into water (4 L). The aqueous solution was extracted with ether (1.0 L) then adjusted to pH7-8 by addition of 2M HCl. The solution was extracted with further ether (2×1.0 L), then adjusted to pH 2 by addition of 2M HCl causing precipitation of a solid. The precipitate was collected by filtration, washed with water and dried overnight at 40° C. in vacuo to give the title compound as a beige/pink solid (36.7 g).

reactant | 4-fluorophenol | 96.8 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | methyl 6-chloropyridine-3-carboxylate | 30 g | ClC1=CC=C(C=N1)C(=O)OC | C7H6ClNO2
reactant | cesium carbonate | 285.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 4 L | O | H2O
solvent | DMSO | 875 mL | CS(=O)C | C2H6OS
product | 6-[(4-Fluorophenyl)oxy]-3-pyridinecarboxylic acid | 36.7 g | FC1=CC=C(C=C1)OC1=CC=C(C=N1)C(=O)O | C12H8FNO3
